Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-0.8928618109209999
[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.0740508882200004
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[H:8].[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10],-5.27246901239
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],4.96496123294
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:7].[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],1.67067119477
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:4],2.03464144706
[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[O:9][H:10],-8.14447451961
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:3],3.8918955990400006
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.17491131875
[H:1][O:2][C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:10]([H:11])[H:12].[H:9],2.88084696561
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15],1.77334514992
[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],-2.11338574691
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3],5.11635941519
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[O:11],1.7212911523400003
[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1].[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9]([H:10])([H:11])[O:12][H:13],5.146554879709999
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:4].[O:1]=[C:2]=[C:3][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],2.45232082869
[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],-6.095355673099999
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9].[H:1][O:2],5.03361082107
[C:4]([H:5])([H:6])[O:7][H:8].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8],-3.44781501323
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9].[O:10][O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15],-0.27450950508
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[C:1]#[C:2][O:5][C:6]([H:7])=[C:8][H:9].[O:3][H:4],4.2251205692100005
[H:4].[O:1]=[C:2]=[C:3][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.609813277830001
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],5.06507519847
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11],-1.21864279944
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([O:8][H:9])=[C:10]([H:11])[H:12].[H:7]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],-1.32469401846
[C:8]([H:9])[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-5.22176454
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:7]([H:8])=[C:9]([H:10])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:11]([H:12])=[C:13][H:14],5.19637959607
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:8],1.9183378926
